US08802713B2
1.2 g of 5-acetylamino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(1,1,2,3,3,3-hexafluoropropoxy)pyrazole was dissolved in 50 mL of ethanol, and an aqueous solution comprising 0.5 g of concentrated sulfuric acid in 2.0 mL of water was added, followed by reflux with heating for 6 hours. After cooling to room temperature, the solvent was distilled off under reduced pressure, and extraction with ethyl acetate was carried out. The organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (developing solvent ethyl acetate:hexane=1:4) to obtain 0.9 g of 5-amino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(1,1,2,3,3,3-hexafluoropropoxy)pyrazole.

reactant | 5-acetylamino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(1,1,2,3,3,3-hexafluoropropoxy)pyrazole | 1.2 g | C(C)(=O)NC1=CC(=NN1C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)OC(C(C(F)(F)F)F)(F)F | C17H13F10N3O2S
reactant | sulfuric acid | 0.5 g | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 2.0 mL | O | H2O
product | 5-amino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(1,1,2,3,3,3-hexafluoropropoxy)pyrazole | 0.9 g | NC1=CC(=NN1C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)OC(C(C(F)(F)F)F)(F)F | C15H11F10N3OS
